US05567670
Preparation of 3-[4-chloro-2-fluoro-5-[(2-propynyl)-oxy]phenyl]-1-(2-propynyl)-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione
To a stirred solution of 500 mg (1.50 mmol) of 3-[4-chloro-2-fluoro-5-(hydroxy)phenyl]-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione in 20 mL of acetonitrile was added 425 mg (3.1 mmol) of potassium carbonate and 0.34 mL (3.10 mmol) of 80% solution of propargyl bromide in toluene. The stirred mixture was then refluxed gently under nitrogen for 2 h. The solution was filtered, washed with ethyl acetate, and concentrated in vacuo. The resulting yellow oil was flash chromatographed over silica gel, eluting with a 1:4 v:v mixture of ethyl acetate and hexane to give 90 mg of the title compound as a pale yellow oil: 1 -NMR (CDCl3, 200 MHz): ppm 7.35 (d, 1H), 7.0 (d, 1H), 6.4 (s, 1H), 4.75 (m, 4H), 2.6 (m, 1H), 2.4 (m, 1H). It also gives 150 mg of 3-[4-chloro-2-fluoro-5-[(2-propynyl)oxy]phenyl]-1-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione as a yellow oil: 1 -NMR (DMSO-d6): ppm 7.7 (d, 1H), 7.4 (d, 1H), 6.4 (s, 1H), 4.8 (d, 2H), 2.5 (m, 1H).

reactant | 3-[4-chloro-2-fluoro-5-(hydroxy)phenyl]-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | 1.50 mmol, 500 mg | ClC1=CC(=C(C=C1O)N1C(NC(=CC1=O)C(F)(F)F)=O)F | C11H5ClF4N2O3
reactant | potassium carbonate | 3.1 mmol, 425 mg | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl bromide | C(C#C)Br | C3H3Br
reactant | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-[4-chloro-2-fluoro-5-[(2-propynyl)-oxy]phenyl]-1-(2-propynyl)-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 90 mg | ClC1=CC(=C(C=C1OCC#C)N1C(N(C(=CC1=O)C(F)(F)F)CC#C)=O)F | C17H9ClF4N2O3
